US04118511
In the same manner but replacing 2-amino-4-(1-naphthyloxy)butanoic acid with an equivalent amount of 2-amino-4-phenoxy-butanoic acid, described by Y. Knobler, et al., J. Org. Chem., 24, 1794 (1959), 2-amino-4-phenoxy-1-butanol, γmaxCHCl3 3230-3400, is obtained. The hydrochloric acid addition salt of 2-amino-4-phenoxy-1-butanol has mp 136°-138° C., after recrystallization from methanol-diethyl ether.

reactant | 2-amino-4-(1-naphthyloxy)butanoic acid | NC(C(=O)O)CCOC1=CC=CC2=CC=CC=C12 | C14H15NO3
reactant | 2-amino-4-phenoxy-butanoic acid | NC(C(=O)O)CCOC1=CC=CC=C1 | C10H13NO3
product | 2-amino-4-phenoxy-1-butanol | NC(CO)CCOC1=CC=CC=C1 | C10H15NO2
